### PR TITLE
feat(NumberTheory/AdditionChain): addition chains and the doubling bound

### PR DESCRIPTION
**Pull request by williamjblair**
This is an addition chain for `n` is a strictly increasing list `1 = a₀ < a₁ < ⋯ < a_r = n` in which every entry after the first is a sum of two earlier entries. `Nat.additionChainLength n` is the least `r` over all such chains, the classical `ℓ(n)`.

`additionChainLength` is an `sInf` over `List ℕ`, so an explicit chain bounds it above (`Nat.additionChainLength_le`), but nothing bounds it below until the search is confined. `List.IsAdditionChain.getLast_le_two_pow` confines it as a step at most doubles, so `r` steps cannot reach past `2 ^ r`. That gives `Nat.lt_additionChainLength_of_two_pow_lt`, and the two bounds together pin down individual values.

`Nat.exists_isAdditionChain` shows every positive `n` ends some chain, so the length is a minimum of a nonempty set rather than `sInf ∅`.

---

Mathlib has nothing on addition chains at present that I could see. This came out of [formal-conjectures](https://github.com/google-deepmind/formal-conjectures), where it underlies the Scholz conjecture. Here is the relevant [PR](https://github.com/google-deepmind/formal-conjectures/pull/4820)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/AdditionChain.lean [hunk 1]
```diff
@@ -0,0 +1,243 @@
...
+    refine ⟨a, ?_, b, ?_, rfl⟩
+    · rcases List.mem_append.mp ha with h | h
+      · exact h
+      · exact absurd (List.mem_singleton.mp h) (by rintro rfl; omega)
+    · rcases List.mem_append.mp hb with h | h
+      · exact h
+      · exact absurd (List.mem_singleton.mp h) (by rintro rfl; omega)
+
+/-- An addition step at most doubles, so a chain of `r` steps cannot reach past `2 ^ r`. -/
+theorem IsAdditionChain.getLast_le_two_pow (h : IsAdditionChain c) (hne : c ≠ []) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/AdditionChain.lean:94]: `hne` is unnecessary: an addition chain cannot be empty (this fact would make sense as an API lemma).
Having a function that extracts the last entry of an addition chain also looks useful.

File: Mathlib/NumberTheory/AdditionChain.lean [hunk 2]
```diff
@@ -0,0 +1,243 @@
...
+      simp only [List.nil_append, List.head?_cons, Option.some.injEq] at hhead
+      simp [hhead]
+    · have hchain := h.dropLast hys
+      obtain ⟨hhead, hsorted, hsum⟩ := h
+      have hy1 : y ≠ 1 := by
+        rintro rfl
+        obtain ⟨a, hays⟩ := List.exists_mem_of_ne_nil ys hys
+        have := (List.pairwise_append.mp hsorted).2.2 _ hays _ (List.mem_singleton_self 1)
+        have := IsAdditionChain.one_le_of_mem ⟨hhead, hsorted, hsum⟩ (List.mem_append_left _ hays)
+        omega
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/AdditionChain.lean:111]:
```suggestion
        lia
```
(also elsewhere)

File: Mathlib/NumberTheory/AdditionChain.lean [hunk 3]
```diff
@@ -0,0 +1,243 @@
...
+  Nat.sInf_le ⟨c, hc, hlast, hlen⟩
+
+/-- A chain ending at `n` witnesses that `additionChainSteps n` is nonempty. -/
+theorem additionChainSteps_nonempty_of {n r : ℕ} (c : List ℕ) (hc : c.IsAdditionChain)
+    (hlast : c.getLast? = some n) (hlen : c.length = r + 1) : (additionChainSteps n).Nonempty :=
+  ⟨r, c, hc, hlast, hlen⟩
+
+/-- Every positive natural number is the last entry of some addition chain: double when the
+target is even, and add `1` when it is odd. -/
+theorem exists_isAdditionChain (n : ℕ) (hn : 0 < n) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/AdditionChain.lean:165]: A much simpler example is given by `(List.range n).map (· + 1)`. To show existence, we do not need to produce a particularly short example.

I.e., the better statement would be
```lean
theorem isAdditionChain_range_map_add_one {n : ℕ} (hn : 0 < n) : ((range n).map (· + 1)).IsAdditionChain
```

File: Mathlib/NumberTheory/AdditionChain.lean [hunk 4]
```diff
@@ -0,0 +1,243 @@
...
+theorem additionChainLength_eq_sInf (n : ℕ) :
+    additionChainLength n = sInf (additionChainSteps n) := rfl
+
+/-- Exhibiting a chain bounds `ℓ` above. -/
+theorem additionChainLength_le {n r : ℕ} (c : List ℕ) (hc : c.IsAdditionChain)
+    (hlast : c.getLast? = some n) (hlen : c.length = r + 1) : additionChainLength n ≤ r :=
+  Nat.sInf_le ⟨c, hc, hlast, hlen⟩
+
+/-- A chain ending at `n` witnesses that `additionChainSteps n` is nonempty. -/
+theorem additionChainSteps_nonempty_of {n r : ℕ} (c : List ℕ) (hc : c.IsAdditionChain)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/AdditionChain.lean:159]: This is not really necessary; the argument can be inlined where needed (i.e., in the proof of `additionChainSteps_nonempty` below).

File: Mathlib/NumberTheory/AdditionChain.lean [hunk 5]
```diff
@@ -0,0 +1,243 @@
...
+/-- The *addition chain length* `ℓ n` of `n`: the least number of additions needed to reach `n`
+from `1`. It is `0` when `n = 0`, where there is no chain to take the minimum over. -/
+noncomputable def additionChainLength (n : ℕ) : ℕ := sInf (additionChainSteps n)
+
+/-- `additionChainLength` unfolds to the infimum of `additionChainSteps`. -/
+theorem additionChainLength_eq_sInf (n : ℕ) :
+    additionChainLength n = sInf (additionChainSteps n) := rfl
+
+/-- Exhibiting a chain bounds `ℓ` above. -/
+theorem additionChainLength_le {n r : ℕ} (c : List ℕ) (hc : c.IsAdditionChain)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/AdditionChain.lean:154]: `c` can be implicit here (it can be deduced from any of the following arguments).

File: Mathlib/NumberTheory/AdditionChain.lean [hunk 6]
```diff
@@ -0,0 +1,243 @@
...
+    · rcases List.mem_append.mp ha with h | h
+      · exact h
+      · exact absurd (List.mem_singleton.mp h) (by rintro rfl; omega)
+    · rcases List.mem_append.mp hb with h | h
+      · exact h
+      · exact absurd (List.mem_singleton.mp h) (by rintro rfl; omega)
+
+/-- An addition step at most doubles, so a chain of `r` steps cannot reach past `2 ^ r`. -/
+theorem IsAdditionChain.getLast_le_two_pow (h : IsAdditionChain c) (hne : c ≠ []) :
+    c.getLast hne ≤ 2 ^ (c.length - 1) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/AdditionChain.lean:95]: State and prove the more general statement `m ∈ c → m ≤ 2 ^ (c.length - 1)`; this should be easier for doing induction. An API lemma that may be helpful for this is something like
```lean
theorem IsAdditionChain.eq_add_of_mem {c : List ℕ} {x : ℕ} (hc : c.IsAdditionChain) (hmem : x ∈ c) :
    ∃ y ∈ c, ∃ z ∈ c, x = y + z∧y ≠ x∧z ≠ x
```

Or maybe a version saying that the `i`th element `c[i]` of the list is bounded by `2^i`? That should be even easier, with a version of the above that says that `c[i]` (for `i > 0`) is the sum of `c[j]` and `c[k]` with `j, k < i`.

File: Mathlib/NumberTheory/AdditionChain.lean [hunk 7]
```diff
@@ -0,0 +1,243 @@
...
+theorem additionChainSteps_nonempty {n : ℕ} (hn : 0 < n) : (additionChainSteps n).Nonempty := by
+  obtain ⟨c, hc, hlast⟩ := exists_isAdditionChain n hn
+  have hcne : c ≠ [] := by rintro rfl; simp at hlast
+  exact ⟨c.length - 1, c, hc, hlast, by cases c with
+    | nil => simp at hcne
+    | cons _ t => simp⟩
+
+/-- The doubling bound, transported to `ℓ`: reaching `n` takes at least `log₂ n` steps. -/
+theorem le_two_pow_additionChainLength {n : ℕ} (hn : 0 < n) :
+    n ≤ 2 ^ additionChainLength n := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/AdditionChain.lean:223]: One could add the upper bound for `additionChainLength` (given by the example above) as well.

**Comment by MichaelStollBayreuth** [comment]
A general comment:
I don't think it is obvious that your implemention in terms of lists and a `Prop` that is a conjunction of various things is necessarily the best approach. One could also image something like
```lean
structure AdditionChain where
  length : ℕ
  length_pos : 0 < length
  list : ℕ → ℕ
  first_eq_one : list 0 = 1
  strict_mono : StrictMonoOn list (.Ico 0 length)
  step : ∀ i < length, 0 < i → ∃ j < i, ∃ k < i, list i = list j + list k

namespace AdditionChain

attribute [simp] first_eq_one

@[simp]
def last (c : AdditionChain) : ℕ := c.list (c.length - 1)

def trivial {n : ℕ} (hn : 0 < n) : AdditionChain :=
  ⟨n, hn, (· + 1), by simp, add_left_strictMono.strictMonoOn _, fun i hi h₀ ↦ ⟨_, h₀, i - 1, by lia, by lia⟩⟩

lemma last_trival {n : ℕ} (hn : 0 < n) : (trivial hn).last = n := by
  simpa [trivial] using Nat.sub_add_cancel hn

lemma upper_bound {c : AdditionChain} {i : ℕ} (h : i < c.length) :
    c.list i ≤ 2 ^ i := by
  induction i using Nat.strong_induction_on with
  | h i ih =>
    match i with
    | 0 => simp
    | i + 1 =>
      obtain ⟨j, hj, k, hk, H⟩ := c.step _ h (succ_pos i)
      grw [H, two_pow_succ, ih _ hj (by lia), ih _ hk (by lia)]
      gcongr <;> lia

lemma last_le_two_pow (c : AdditionChain) : c.last ≤ 2 ^ (c.length - 1) := by
  simpa using upper_bound (by grind [length_pos])
```
(Note that `list` is totally defined on `ℕ`; everything beyond the first `length` entries is just ignored. This makes it easier to work with it compared to using `Fin _`, because we need to use constraints on the arguments only where needed and not every time.)

A general principle is that new *definitions* should first be discussed on Zulip before they go into Mathlib. It is not always easy to find the "best" implementation (i.e., such that it is easy to use, has the right level of generality etc.).

**Comment by williamjblair** [comment]
Thanks @MichaelStollBayreuth, this was very helpful. I've rewritten the file along the lines of your sketch:

- `AdditionChain` is now a structure with `seq : ℕ → ℕ`, `seq_zero`, `strictMonoOn` and `exists_add`. One deviation: `length` is the number of additions (Knuth's `r`) rather than the number of entries, so the chain is `seq 0, …, seq length` and the bounds read `c.last ≤ 2 ^ c.length` with no `- 1`. This also removes the need for a `length_pos` field.
- The bound is proved per entry (`seq_le_two_pow : i ≤ c.length → c.seq i ≤ 2 ^ i`), and `last_le_two_pow` follows.
- `AdditionChain.trivial n` is the chain `1, 2, …, n + 1`, which gives existence and the upper bound `Nat.additionChainLength_le_sub_one : ℓ n ≤ n - 1`.
- `last` is a definition; the list-specific helpers and `hne` hypotheses are gone, and `omega` is replaced by `lia`.

On the broader point about new definitions, I'll open a Zulip thread so the design can be discussed before this goes further.

-awaiting-author
